US04536508
Methyl 5-amino-1-methyl-1H-1,2,4-triazole-3-carboxylate
A stirred suspension of 5-amino-1-methyl-1H-1,2,4-triazole-3-carboxylic acid (9.10 g) in methanol (100 ml) was saturated with dry hydrogen chloride, and heated under reflux for 4.5 h. The cooled solution was partially evaporated, diluted with water (100 ml) and the pH was adjusted to pH 7 with potassium carbonate. The solution was filtered, and the filtrate partially evaporated to give the title compound as a white solid (4.60 g) m.p. 190-1; tlc System B, Rf 0.6.

reactant | 5-amino-1-methyl-1H-1,2,4-triazole-3-carboxylic acid | 9.10 g | NC1=NC(=NN1C)C(=O)O | C4H6N4O2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 5-amino-1-methyl-1H-1,2,4-triazole-3-carboxylate | 4.60 g | NC1=NC(=NN1C)C(=O)OC | C5H8N4O2
